US07414076B2
Preparation of 3-(1-ethynylcyclohexyl)amino-1-propanesulfonic acid (Compound DX)
A mixture of 1-ethynylcyclohexylamine (6 g, 48.7 mmol) and 1,3-propane sultone (6.55 g, 53.6 mmol) in THF (35 mL) was heated at reflux for 2 hours (thick paste). The mixture was cooled to room temperature. The solid was collected by filtration, rinsed with THF (3×5 mL), air-dried 15 minutes (7.3 g). The solid was suspended in ethanol (30 mL) and the suspension was heated at reflux for 1 hour. The mixture was then cooled to room temperature and the solid was collected by suction filtration, rinsed with ethanol (2×5 mL), air-dried for 10 min, and further dried in a vacuum oven at 60° C. overnight (crop 1, 7.10 g). The combined mother liquors were stirred overnight at room temperature. There was a lot of solid. The solid was collected by filtration, rinsed with acetone (3×5 mL), air-dried for 30 minutes, and then suspended in ethanol (12 mL). The suspension was heated at reflux for 1 hour. The mixture was then cooled to room temperature and the solid was collected by suction filtration, rinsed with ethanol (2×5 mL), air-dried for 2 minutes, and further dried in a vacuum oven at 60° C. overnight (crop 2: 1.85 g). Compound DX was obtained as a fine white solid (two crops in total 8.95 g, 75% yield). 1H NMR (500 MHz, D2O) δ 0.95-1.05 (m, 1H), 1.38-1.54 (m, 5H), 1.60-1.64 (m, 2H), 1.94 (qt, J=7.8 Hz, 2H), 2.85 (t, J=7.3 Hz, 2H), 3.01 (s, 1H), 3.22 (t, J=7.8 Hz, 2H). 13C NMR (125 MHz, D2O) δ 21.8, 22.3, 24.2, 34.4, 40.9, 48.0, 59.2, 78.6, 79.3. ES-MS 243.0 (M−1).

reactant | 1-ethynylcyclohexylamine | 48.7 mmol, 6 g | C(#C)C1(CCCCC1)N | C8H13N
reactant | 1,3-propane sultone | 53.6 mmol, 6.55 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3-(1-ethynylcyclohexyl)amino-1-propanesulfonic acid | 75% yield | C(#C)C1(CCCCC1)NCCCS(=O)(=O)O | C11H19NO3S
